US08975256B2
8-(5-Fluoro-2-methylphenoxymethyl)-7-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 22)
A mixture of 7-bromo-8-(5-fluoro-2-methylphenoxymethyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 8-1, 101 mg, 0.248 mmol), bis(pinacolato)diboron (156 mg, 0.614 mmol), potassium acetate (75.5 mg, 0.769 mmol), 1,1′-bis(diphenylphosphino)ferrocene (7.2 mg, 0.013 mmol), and [1,1′-bis(diphenylphosphino)ferrocene]palladium(II)dichloride dichloromethane complex (1:1) (10.7 mg, 0.0131 mmol) was suspended in 1,4-dioxane (2 mL), and the reaction mixture was stirred at 80° C. overnight. After cooling down, ethyl acetate (15 mL) and water (15 mL) were added and partitioned. The organic layer was washed with saturated brine (15 mL), dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (1st:hexane-ethyl acetate, 2nd:chloroform-methanol) to give the titled reference compound (87.9 mg) as a colorless amorphous product. (Yield 78%)

reactant | 7-bromo-8-(5-fluoro-2-methylphenoxymethyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | 0.248 mmol, 101 mg | BrC1=CC=C2NC(C(N(C2=C1COC1=C(C=CC(=C1)F)C)C)=O)(C)C | C19H20BrFN2O2
reactant | bis(pinacolato)diboron | 0.614 mmol, 156 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.769 mmol, 75.5 mg | C(C)(=O)[O-].[K+]
reactant | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.013 mmol, 7.2 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | water | 15 mL | O | H2O
product | 8-(5-Fluoro-2-methylphenoxymethyl)-7-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | 87.9 mg, Yield 78% | FC=1C=CC(=C(OCC=2C(=CC=C3NC(C(N(C23)C)=O)(C)C)B2OC(C(O2)(C)C)(C)C)C1)C | C25H32BFN2O4
